US06762196B2
To 750 mL of ethanol, about 9 g of sodium hydroxide is added dropwise, while stirring under an inert atmosphere. After the addition of sodium hydroxide, the temperature of reaction mixture is maintained at about 20° C., and 42 g of diethyl acetamidomalonate is slowly added then the mixture is stirred at a temperature of about 20° C. for 1 hour and 30 minutes. A suspension of 61.5 g of 4-bromomethyl-pyridine hydrobromide in 250 mL of ethanol is then quickly added and the resulting suspension is stirred at a temperature of about 20° C. for 18 hours. The reaction medium is then concentrated under reduced pressure (2 kPa) at a temperature of about 40° C. The residue is taken up in 200 mL of distilled water and is neutralized with 1N aqueous hydrochloric acid until the pH is equal to 7. The obtained suspension is cooled at a temperature of about 0° C., filtered and the insoluble material is washed with 2 times 50 mL of ice-cold water, then dried in an oven under reduced pressure (10 kPa) at a temperature of about 40° C. for 18 hours. Thus 49.4 g of diethyl 2-(acetylamino)-2-(4-pyridinylmethyl)malonate is obtained in the form of a white-pinkish solid. [Infrared spectrum CH2Cl2: 3409; 2895; 1741; 1681; 1603; 1496; 1302; 1198; 1057; 855; 557 and 524 cm−1].

reactant | sodium hydroxide | about 9 g | [OH-].[Na+]
reactant | diethyl acetamidomalonate | 42 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | 4-bromomethyl-pyridine hydrobromide | 61.5 g | Br.BrCC1=CC=NC=C1
solvent | ethanol | 250 mL | C(C)O | C2H6O
solvent | ethanol | 750 mL | C(C)O | C2H6O
product | diethyl 2-(acetylamino)-2-(4-pyridinylmethyl)malonate | 49.4 g | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CC1=CC=NC=C1 | C15H20N2O5
